US06846835B2
Synthesis of (2R,5R)-2-(t-butyl)-5-((1R,3R)-3-hydroxy-4-oxocyclopentyl)-5-phenyl-1,3-dioxolan-4-one
To a solution of 169 mg of (4R)-4-((2R,4R)-2-(t-butyl)-5-oxo-4-phenyl-1,3-dioxolan-4-yl)-1-cyclopentenyl acetate in 7.5 ml of acetonitrile and water (2:1), 80 mg of N-methyl morpholine-oxide and 0.2 ml of 2% aqueous osmium tetraoxide solution were successively added at 0° C. by the order stated, followed by 3 hours' stirring at the same temperature. Sodium sulfite was added to the reaction liquid and stirred for further 30 minutes. The reaction liquid was then diluted with ethyl acetate, washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the residue obtained was purified on silica gel column chromatography (eluent: hexane−hexane/ethyl acetate=2/1) to provide 32 mg of the title compound as a colorless solid.

reactant | (4R)-4-((2R,4R)-2-(t-butyl)-5-oxo-4-phenyl-1,3-dioxolan-4-yl)-1-cyclopentenyl acetate | 169 mg | C(C)(=O)OC1=CC[C@H](C1)[C@@]1(O[C@H](OC1=O)C(C)(C)C)C1=CC=CC=C1 | C20H24O5
reactant | N-methyl morpholine-oxide | 80 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 7.5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetraoxide | 0.2 ml | [Os](=O)(=O)(=O)=O
product | (2R,5R)-2-(t-butyl)-5-((1R,3R)-3-hydroxy-4-oxocyclopentyl)-5-phenyl-1,3-dioxolan-4-one | 32 mg | C(C)(C)(C)[C@@H]1O[C@@](C(O1)=O)(C1=CC=CC=C1)[C@@H]1C[C@H](C(C1)=O)O | C18H22O5
